US07576125B2
4 g of sodium hydride (60%) and 100 ml of tetrahydrofuran (THF) were stirred in a nitrogen stream. Thereto was dropwise added, in 30 minutes, 15.2 g (0.1 mol) of piperonyl alcohol dissolved in 70 ml of THF, followed by stirring for 30 minutes. Thereto was dropwise added 13.7 g (0.1 mol) of 1-bromobutane dissolved in THF, followed by stirring for 12 hours. The stirring was stopped and the reaction mixture was concentrated. The concentrate was dropped into an excess amount of a 2 N aqueous hydrochloric acid solution. Heptane was added thereto for extraction. The extract was washed with water until the washings became neutral, and then concentrated. The concentrate was purified by silica gel column chromatography (hexane:ethyl acetate=30:1) to obtain 8.0 g of piperonyl butyl ether at a yield of 38.5% as a transparent oily substance.

reactant | sodium hydride | 4 g | [H-].[Na+]
reactant | piperonyl alcohol | 0.1 mol, 15.2 g | C(C1=CC=2OCOC2C=C1)O | C8H8O3
reactant | 1-bromobutane | 0.1 mol, 13.7 g | BrCCCC | C4H9Br
solvent | THF | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | piperonyl butyl ether | 8.0 g, yield of 38.5% | C(CCC)OCC1=CC=2OCOC2C=C1 | C12H16O3
